US04478849
1-(4-Carboisopropoxyphenyl)propan-2-one
Isopropanol (30 ml) was added to 4-acetonylbenzoyl chloride (2.61 g) and the solution left at room temperature 3 days. Removal of the solvent gave the title compound as an oil. γ (CDCl3) 8.66 (3H, d, J=7 Hz), 7.88 (3H, s), 6.28 (2H, s), 4.78 (1H, h, J=7 Hz), 2.80 (2H, d, J=9 Hz) 2.04 (2H, d, J=9 Hz).

reactant | 4-acetonylbenzoyl chloride | 2.61 g | C(C(=O)C)C1=CC=C(C(=O)Cl)C=C1 | C10H9ClO2
solvent | Isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 1-(4-Carboisopropoxyphenyl)propan-2-one | C(=O)(OC(C)C)C1=CC=C(C=C1)CC(C)=O | C13H16O3
